US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (100 mg, 0.24 mmol), PyBOP® (125 mg, 0.24 mmol), DIEA (125 μL, 0.72 mmol) in CH2Cl2:DMF (4 mL:0.5 mL) stirred at RT for 10-15 minutes. To this solution of activated acid was added 2-methoxyethanamine (21 μL, 0.24 mmol) and the reaction mixture was stirred at RT for 3 h. Concentrated in vacuo and the crude product was purified using prep HPLC (method 10-35—90 mins) and was further washed with ethyl ether and drops of CH2Cl2 to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(2-methoxyethyl)acetamide. (25 mg, 0.053 mmol, 22%)

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.24 mmol, 100 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.72 mmol, 125 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethanamine | 0.24 mmol, 21 μL | COCCN | C3H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(2-methoxyethyl)acetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)NCCOC)C=CC1 | C26H24N6O3
